### ISSUE TITLE
`ring_nf` fails to fully normalize some expressions

### ISSUE THREAD

**Issue by dwrensha** [leanprover-community/mathlib4#2171]
```lean
import Mathlib.Tactic.Ring

theorem foo (x : ℤ) (h₀ : x^2 - (x - 1) * x = 5) : x = 5 := by
  ring_nf at h₀
  -- I expect h₀ to be `x = 5` now, but instead it is `x ^ 2 - (-x + x ^ 2) = 5`.
  sorry
```
or, even simpler:
```lean
import Mathlib.Tactic.Ring

theorem foo (x : ℤ) (h₀ : x - x + x = 0) : x = 0 := by
  ring_nf at h₀
  -- I expect h₀ to be `x = 0` now, but instead it is `0 + x = 0`.
  sorry
```

The problem goes away if I comment out this line: https://github.com/leanprover-community/mathlib4/blob/c16c0c414d4ea87bd10716ffd38b93d9d66aa215/Mathlib/Tactic/Ring/RingNF.lean#L97
but according to @digama0 in [this zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/ring_nf.20failing.20to.20fully.20normalize), removing that line would cause the tactic to perform lots of unnecessary rewrites in other situations.

**Comment by hrmacbeth** [comment]
Just encountered this [again](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Bug.20in.20.60ring_nf.60.3F) and would love to see a fix.
```lean
import Mathlib.Tactic.Ring

example {x : ℕ} (hn : 0 < x) : 0 < x + 0 := by
  ring_nf -- does nothing
  with_reducible assumption -- fails
```
